US06809110B2
In analogy to the procedure described in example 4 d], [rac]-2-ethoxy-3-(5-ethoxy-2-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole (prepared from 4-isopropyl-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in acetonitrile in the presence of cesium carbonate to yield [rac]-2-ethoxy-3-{5-ethoxy-2-fluoro-4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-{5-ethoxy-2-fluoro-4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid as light yellow solid.

reactant | [rac]-2-ethoxy-3-(5-ethoxy-2-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C(=C1)OCC)O)F)OCC)=O | C15H21FO5
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C | C13H14ClNS
reactant | 4-isopropyl-thiobenzamide | C(C)(C)C1=CC=C(C(=S)N)C=C1 | C10H13NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | [rac]-2-ethoxy-3-{5-ethoxy-2-fluoro-4-[2-(4-isopropyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C(=C1)OCC)OCC=1N=C(SC1)C1=CC=C(C=C1)C(C)C)F)OCC)=O | C28H34FNO5S
